US08614206B2
To a stirred solution of 1-(2,2-difluoroethyl)-4-nitro-1H-pyrazole (1.0 g, 5.13 mmol) in dry THF (20 mL) cooled to −70° C. was added dropwise a solution of lithium hexamethyldisilazide (1 M in THF, 8.47 mL, 8.47 mmol). After stirring at −70° C. for 40 min, the reaction mixture was allowed to warm to −55° C. over 20 min. After recooling to −70° C., a solution of perchloroethane (1.74 g, 7.34 mmol) in THF (10 mL) was added slowly and the reaction mixture was stirred at −70° C. for 1.5 hr. Saturated aqueous ammonium chloride solution (30 mL) was added followed by water (15 mL) and the mixture was extracted with EtOAc (3×100 mL). The combined organic layers were dried over MgSO4 and the solvent removed under reduced pressure. Purification of the residue by silica gel column chromatography (0-100% EtOAc/isohexane) gave 5-chloro-1-(2,2-difluoroethyl)-4-nitro-1H-pyrazole as an off-white solid (438 mg, 37%). 1H NMR (400 MHz, CDCl3) δ 8.24 (s, 1H), 6.18 (tt, J=54.8, 4.2 Hz, 1H), 4.58 (td, J=12.8, 4.2 Hz, 2H).

reactant | 1-(2,2-difluoroethyl)-4-nitro-1H-pyrazole | 5.13 mmol, 1.0 g | FC(CN1N=CC(=C1)[N+](=O)[O-])F | C5H5F2N3O2
reactant | lithium hexamethyldisilazide | 8.47 mmol, 1 M, 8.47 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | perchloroethane | 7.34 mmol, 1.74 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
reactant | ammonium chloride | 30 mL | [Cl-].[NH4+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | 5-chloro-1-(2,2-difluoroethyl)-4-nitro-1H-pyrazole | 438 mg, 37% | ClC1=C(C=NN1CC(F)F)[N+](=O)[O-] | C5H4ClF2N3O2
